US07851493B2
1.10 g 4-Methoxymethyl-2-[2-(4-methoxy-phenyl)-vinyl]-oxazole-5-carboxylic acid methyl ester were dissolved in 15 ml tetrahydrofuran and added to a ice cooled solution of 137 mg lithium aluminium hydride in 7 ml tetrahydrofuran. The reaction mixture was stirred at 0° C. for one hour. Then 50 ml ethyl acetate and 20 ml saturated NH4Cl solution were added. The precipitate was filtered off through a celite pad and washed with ethyl acetate. The organic layer of the filtrate was separated. The aqueous layer of the filtrate was extracted two times with portions of 100 ml ethyl acetate. The combined organic layers were dried over MgSO4. The solvent was removed in vacuo and the residue purified by RP-HPLC to obtain to 420 mg {4-methoxymethyl-2-[2-(4-methoxy-phenyl)-vinyl]-oxazol-5-yl}-methanol as an oil.

reactant | 4-Methoxymethyl-2-[2-(4-methoxy-phenyl)-vinyl]-oxazole-5-carboxylic acid methyl ester | 1.10 g | COC(=O)C1=C(N=C(O1)C=CC1=CC=C(C=C1)OC)COC | C16H17NO5
reactant | lithium aluminium hydride | 137 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
reactant | NH4Cl | 20 ml | [NH4+].[Cl-]
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 7 ml | O1CCCC1 | C4H8O
product | {4-methoxymethyl-2-[2-(4-methoxy-phenyl)-vinyl]-oxazol-5-yl}-methanol | 420 mg | COCC=1N=C(OC1CO)C=CC1=CC=C(C=C1)OC | C15H17NO4
